US06008229
To a solution of 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-2-cyanopyrrole (2.44 g) in dichloromethane (25 ml) was added diisobutylaluminum hydride (1.5 M solution in toluene, 4.9 ml) under nitrogen atmosphere in water bath, and the mixture was stirred for 30 minutes at the same temperature. The reaction mixture was cooled in ice water bath, and to the mixture were added dropwise methanol (1 ml) and water (1 ml). The mixture was stirred for 1 hour, quenched with 1N sodium hydroxide solution and extracted with chloroform. The organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of n-hexane and ethyl acetate (20:1, V/V) to give 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-2-formylpyrrole (1.9 g) as an oil.

reactant | 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-2-cyanopyrrole | 2.44 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(C=CC1Cl)N1C(=CC=C1)C#N)Cl | C28H26Cl2N2OSi
reactant | diisobutylaluminum hydride | 1.5 M, 4.9 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 1 ml | CO | CH4O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | water | 1 ml | O | H2O
product | 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-2-formylpyrrole | 1.9 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(C=CC1Cl)N1C(=CC=C1)C=O)Cl | C28H27Cl2NO2Si
